US07981906B2
The (2S,3R)-3-amino-2-((3-pyridinyl)methyl)-1-azabicyclo[2.2.2]octane was transferred to a clean 100 L reaction flask equipped with a mechanical stirrer, condenser, and temperature probe under an inert atmosphere. Ethanol (38.4 L) and di-p-toluoyl-D-tartaric acid (3.58 kg, 9.27 mol) were added. The reaction mixture was heated at gentle reflux for a minimum of 1 h. The reaction mixture was then stirred for a minimum of 12 h while it was cooled to between 15° C. and 30° C. The resulting suspension was filtered, and the filter cake was washed with ethanol (5.76 L). The filter cake was transferred to a clean 100 L glass reaction flask equipped with a mechanical stirrer, temperature probe, and condenser under an inert atmosphere. A 9:1 ethanol/water solution (30.7 L) was added, and the resulting slurry was heated at gentle reflux for a minimum of 1 h. The reaction mixture was then stirred for a minimum of 12 h while cooling to between 15° C. and 30° C. The mixture was filtered and the filter cake was washed with ethanol (5.76 L). The product was collected and dried under vacuum at 50° C.±5° C. for a minimum of 12 h to give 5.63 kg (58.1% yield) of (2S,3R)-3-amino-2-((3-pyridinyl)methyl)-1-azabicyclo[2.2.2]octane di-p-toluoyl-D-tartrate salt.

reactant | (2S,3R)-3-amino-2-((3-pyridinyl)methyl)-1-azabicyclo[2.2.2]octane | N[C@H]1[C@@H](N2CCC1CC2)CC=2C=NC=CC2 | C13H19N3
reactant | Ethanol | 38.4 L | C(C)O | C2H6O
reactant | di-p-toluoyl-D-tartaric acid | 9.27 mol, 3.58 kg | C1(=CC=C(C=C1)C(=O)[C@@]([C@@](C(=O)O)(O)C(=O)C1=CC=C(C=C1)C)(O)C(=O)O)C | C20H18O8
solvent | ethanol water | 30.7 L | C(C)O.O
product | (2S,3R)-3-amino-2-((3-pyridinyl)methyl)-1-azabicyclo[2.2.2]octane di-p-toluoyl-D-tartrate salt | 5.63 kg, 58.1% yield | C1(=CC=C(C=C1)C(=O)[C@@]([C@@](C(=O)O)(O)C(=O)C1=CC=C(C=C1)C)(O)C(=O)O)C.N[C@H]1[C@@H](N2CCC1CC2)CC=2C=NC=CC2 | InChI=1S/C20H18O8.C13H19N3/c1-11-3-7-13(8-4-11)15(21)19(27,17(23)24)20(28,18(25)26)16(22)14-9-5-12(2)6-10-14;14-13-11-3-6-16(7-4-11)12(13)8-10-2-1-5-15-9-10/h3-10,27-28H,1-2H3,(H,23,24)(H,25,26);1-2,5,9,11-13H,3-4,6-8,14H2/t19-,20-;12-,13+/m10/s1
